US07601711B2
5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 239, Intermediate a), from 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester and isopropylmethanesulfonate, to afford the product as a yellow oil (62%).

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H29N3O5
reactant | isopropylmethanesulfonate | C(C)(C)CS(=O)(=O)[O-]
product | 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C)C(C)C | C25H35N3O5
